US06436923B1
G. 2-(3,4-Dichlorophenyl)-1-{4-[(2-piperidyl)ethoxy]benzyl}-1,2,3,4-tetrahydroisoquinolin-6-ol
A solution of 2-(3,4-dichlorophenyl)-6-(phenylmethoxy)-1-{4-[(2-piperidyl)ethoxy]benzyl}-1,2,3,4-tetrahydroisoquinoline (0.380 g, 0.63 mmol) was placed under a nitrogen atmosphere and dissolved in ethyl acetate (5 ml). The flask was evacuated and flushed with nitrogen. To the flask was added palladium (10% wt. on activated carbon, 0.190 g). The flask was flushed and evacuated with nitrogen followed by hydrogen. The reaction was allowed to stir under the hydrogen atmosphere at room temperature for 5 hours. The reaction mixture was filtered through celite and concentrated. The product was purified by preparative HLPC (C-18 column, 10-100% acetonitrile/water with 0.1% trifluoroacetic acid) to provide the title compound (0.010 g, 3% yield). 1H NMR (CDCl3) 6.7-7.2 (m, 10H), 4.7 (t, 1H), 4.2-4.4 (m, 2H), 3.6-4.0 (m, 4H), 3.3-3.6 (m, 3H), 3.0-3.1 (m, 1H), 2.7-2.9 (m, 3H), 2.6-2.7 (m, 1H), 1.8-2.1 (m, 4H), 1.4 (m, 2H); ES-MS (m/z) 511 [M+H]+.

reactant | 2-(3,4-dichlorophenyl)-6-(phenylmethoxy)-1-{4-[(2-piperidyl)ethoxy]benzyl}-1,2,3,4-tetrahydroisoquinoline | 0.63 mmol, 0.380 g | ClC=1C=C(C=CC1Cl)N1C(C2=CC=C(C=C2CC1)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OCCC1NCCCC1 | C36H38Cl2N2O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 2-(3,4-Dichlorophenyl)-1-{4-[(2-piperidyl)ethoxy]benzyl}-1,2,3,4-tetrahydroisoquinolin-6-ol | 0.010 g, 3% yield | ClC=1C=C(C=CC1Cl)N1C(C2=CC=C(C=C2CC1)O)CC1=CC=C(C=C1)OCCC1NCCCC1 | C29H32Cl2N2O2
